US08536187B2
Synthesis of 3-{[6-(3-Methanesulfonyl-phenyl)-4-(2,2,2-trifluoro-ethylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide
(2,6-Dichloro-pyrido[3,2-d]pyrimidin-4-yl)-(2,2,2-trifluoro-ethyl)-amine (2.3 g) and 3-Aminomethyl-benzenesulfonamide (0.336 g) were dissolved in NMP (10 mL) and dioxane (10 mL), treated with diisopropylethylamine (0.160 mL) and heated to reflux. After 8 h, additional portions of 3-Aminomethyl-benzenesulfonamide (440 mg) and diisopropylethylamine (0.200 mL). After an additional 12 h of heating, additional diisopropylethylamine was added (1.2 mL). The reaction mixture was stirred for another 24 h at reflux. Methanol (30 mL) was added followed by water (80 mL) and the mixture was allowed to cool to ambient temperature. A precipitate was collected and washed with 10% MeOH:water, and dried to give 1.2 g of the desired product which was used without further purification.

reactant | (2,6-Dichloro-pyrido[3,2-d]pyrimidin-4-yl)-(2,2,2-trifluoro-ethyl)-amine | 2.3 g | ClC=1N=C(C2=C(N1)C=CC(=N2)Cl)NCC(F)(F)F | C9H5Cl2F3N4
reactant | 3-Aminomethyl-benzenesulfonamide | 0.336 g | NCC=1C=C(C=CC1)S(=O)(=O)N | C7H10N2O2S
reactant | diisopropylethylamine | 0.160 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-Aminomethyl-benzenesulfonamide | 440 mg | NCC=1C=C(C=CC1)S(=O)(=O)N | C7H10N2O2S
reactant | diisopropylethylamine | 0.200 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methanol | 30 mL | CO | CH4O
reactant | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 80 mL | O | H2O
product | 3-{[6-(3-Methanesulfonyl-phenyl)-4-(2,2,2-trifluoro-ethylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | 1.2 g | CS(=O)(=O)C=1C=C(C=CC1)C=1C=CC=2N=C(N=C(C2N1)NCC(F)(F)F)NCC=1C=C(C=CC1)S(=O)(=O)N | C23H21F3N6O4S2
